US07528158B2
To 1-(4-chloro-benzyl)-5-nitro-1,2-dihydro-indazol-3-one (0.45 g) was added HCl (37% aq.) solution (5 mL) followed by SnCl2.dihydrate (1.9 g). The mixture was heated to 85° C. for one hour. The reaction was then neutralized with sodium bicarbonate solution, filtered, and the filtrate extracted with EtOAc. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and reduced in vacuo. Flash column chromatography of the residue over silica gel eluting with methylene chloride/methanol afforded the desired 5-amino-1-(4-chloro-benzyl)-1,2-dihydro-indazol-3-one (0.31 g) as a dark brown solid. MS (ESI+): 274.4 [M+H]+).

reactant | 1-(4-chloro-benzyl)-5-nitro-1,2-dihydro-indazol-3-one | 0.45 g | ClC1=CC=C(CN2NC(C3=CC(=CC=C23)[N+](=O)[O-])=O)C=C1 | C14H10ClN3O3
reactant | HCl | Cl | ClH
reactant | SnCl2 | Cl[Sn]Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-amino-1-(4-chloro-benzyl)-1,2-dihydro-indazol-3-one | 0.31 g | NC=1C=C2C(NN(C2=CC1)CC1=CC=C(C=C1)Cl)=O | C14H12ClN3O
